US07667041B2
Synthesis of 1-o-tolylethylamine
10% palladium-carbon (water content: 50%, 50 mg) was added to a solution of 1-(1-azidoethyl)-2-methylbenzene (744 mg) in methanol (5 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for 1 hour. The reaction solution was filtered on a celite, and the filtrate was concentrated under reduced pressure to obtain 482 mg of the title compound. The physical properties of the compound are as follows.

reactant | 1-(1-azidoethyl)-2-methylbenzene | 744 mg | N(=[N+]=[N-])C(C)C1=C(C=CC=C1)C | C9H11N3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | 1-o-tolylethylamine | 482 mg | C1(=C(C=CC=C1)C(C)N)C | C9H13N
